US04696949
(c) 4-tosyloxy-1,1,2-triphenyl-1-butene
The reaction is performed under dry conditions. 30.0 g of 1,1,2-triphenyl-1-butene-4-ol are dissolved in 100 ml of dry pyridine. Then with stirring and cooling the mixture on ice, 57.0 g of 4-toluenesulfonic acid chloride in 50 ml of dry pyridine are added dropwise to the mixture. The mixture is stirred for 6 h at 0° C. Then 250 ml of ice-cold water and 750 ml of cold 2M hydrochloric acid are added. The precipitate is collected by filtration and washed with water. Finally the product is recrystallized from ethanol. The yield is 36.8 g (81%) of a product having m.p. 137°-9° C.

reactant | 1,1,2-triphenyl-1-butene-4-ol | 30.0 g | C1(=CC=CC=C1)C(=C(CCO)C1=CC=CC=C1)C1=CC=CC=C1 | C22H20O
reactant | 4-toluenesulfonic acid chloride | 57.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-tosyloxy-1,1,2-triphenyl-1-butene | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC(=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H26O3S
